### PR TITLE
feat: port Batteries.WF for executable well-founded fixpoints

### PR DESCRIPTION
**Pull request by joehendrix**
This PR ports Batteries.WF to Init.WFC for executable well-founded fixpoints.  It introduces `csimp` theorems to replace the recursors and non-executable definitions with executable definitions.

This ocassionally comes up on Zulip as it prevents admiting definitions generated from well-founded induction.  (e.g., [#lean4 > Computable WellFounded.fix](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Computable.20WellFounded.2Efix/with/529347861) and [#mathlib4 > Why Nat.find is computable, when Wellfounded.fix isn't?](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Why.20Nat.2Efind.20is.20computable.2C.20when.20Wellfounded.2Efix.20isn't.3F/with/545143617)).

This was motivated by running into poor elaboration performance with recursive definitions involving complex inductive types generated by a custom elaborator.  It would be helpful to explore bypassing the elaborator and generating elaborated terms directly, but this requires an executable fixpoint (such as `WellFounded.fixC` introduced in batteries).

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c4477939d07116df842258bf8f9267deea51c466 --onto 19e1fe55f33a8aadc4243da32828b70a4b4677cc`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-11 20:14:27)
- 💥 Mathlib branch [lean-pr-testing-11620](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11620) build failed against this PR. (2025-12-12 10:18:34) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20163475972)
- 💥 Mathlib branch [lean-pr-testing-11620](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11620) build failed against this PR. (2025-12-12 23:00:48) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20182214825)

**Comment by nomeata** [comment]
> This was motivated by running into poor elaboration performance with recursive definitions involving complex inductive types generated by a custom elaborator

Do we have an issue tracking this?

But assuming the compiled code you get from using this here is reasonable, I'm happy to have this in core.


We should make `wrap` public, it's useful generally.

File: src/Init/WFC.lean [hunk 1]
```diff
@@ -0,0 +1,141 @@
...
+-/
+module
+prelude
+public import Init.WF
+import Init.NotationExtra
+
+/-!
+# Computable Acc.rec and WellFounded.fix
+
+This file exports no public definitions / theorems, but by importing it the compiler will
```
Comment (nomeata) [inline src/Init/WFC.lean]: Not true if we export wrap

File: src/Init/WFC.lean [hunk 2]
```diff
@@ -0,0 +1,141 @@
...
+#eval log2p1 4   -- 3
+-/
+
+namespace Acc
+
+public instance wfRel {r : α → α → Prop} : WellFoundedRelation { val // Acc r val } where
+  rel := InvImage r (·.1)
+  wf  := ⟨fun ac => InvImage.accessible _ ac.2⟩
+
+/-- A computable version of `Acc.rec`. Workaround until Lean has native support for this. -/
```
Comment (nomeata) [inline src/Init/WFC.lean]: It's no longer a work around now :-)

File: src/Init/WFC.lean [hunk 3]
```diff
@@ -0,0 +1,141 @@
...
+
+/-
+/-- A computable version of `fix`. -/
+@[specialize] public def fixC {α : Sort u} {C : α → Sort v} {r : α → α → Prop}
+    (hwf : WellFounded r) (F : ∀ x, (∀ y, r y x → C y) → C x) (x : α) : C x :=
+  F x (fun y _ => fixC hwf F y)
+termination_by hwf.wrap x
+-/
+
+/-- A computable version of `fix`. Workaround until Lean has native support for this. -/
```
Comment (nomeata) [inline src/Init/WFC.lean]: dito

File: src/Init.lean [hunk 4]
```diff
@@ -15,6 +15,7 @@ public import Init.RCases
 public import Init.Core
 public import Init.Control
 public import Init.WF
+public import Init.WFC
```
Comment (nomeata) [inline src/Init.lean]: `WFComputable` maybe? No need to be saving characters here

File: tests/lean/run/wfcomputable.lean [hunk 5]
```diff
@@ -0,0 +1,14 @@
+prelude
+import Init.Guard
+import Init.WFC
```
Comment (nomeata) [inline tests/lean/run/wfcomputable.lean]: Move this test to `lean/run`, then no expect file is needed

File: src/Init/WFComputable.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+  induction a using Acc.recC with
+  | intro x₁ _ ih => exact F x₁ ih
+
+@[csimp] public theorem fixF_eq_fixFC : @fixF = @fixFC := by
+  funext α r C F x a
+  rw [fixF, Acc.rec_eq_recC, fixFC]
+
+/-
+/-- A computable version of `fix`. -/
+@[specialize] public def fixC {α : Sort u} {C : α → Sort v} {r : α → α → Prop}
```
Comment (nomeata) [inline src/Init/WFComputable.lean]: Is this docstring just copying the function definition? Seems redundant

File: src/Init/WFC.lean (hunk 1 above)
Comment (joehendrix) [reply src/Init/WFC.lean]: Agreed.  I deleted the comment and moved wrap to `Init.WF`.

File: src/Init/WFC.lean (hunk 2 above)
Comment (joehendrix) [reply src/Init/WFC.lean]: Thanks!  I noticed that, and then forgot to actually merge in a fix.

File: src/Init.lean (hunk 4 above)
Comment (joehendrix) [reply src/Init.lean]: I think that's a better name.  I've done the renamings.

File: src/Init/WFComputable.lean (hunk 6 above)
Comment (joehendrix) [reply src/Init/WFComputable.lean]: Deleted

**Comment by joehendrix** [comment]
No issue tracking -- happy to add one if that is helpful.

For performance, I did a little bit of testing with a function defined using this and another defined relying on the elaborator introducing well-founded induction; profiling results in #eval were similar.

I'd naively expect the compiler may do better with the elaborator generated code, since I assume that generates better code, but I haven't really tested it.

**Comment by nomeata** [comment]
Happy to merge without an issue once CI is happy.

**Comment by joehendrix** [comment]
CI checks seem to be working.  

I looked into the Batteries failure, and it is the expected name failures.  I think that's a trivial fix, but I don't have permission to push to batteries.

File: src/Init/WFComputable.lean [hunk 7]
```diff
@@ -0,0 +1,117 @@
...
+This file adds csimp theorems so that the compiler will be able to compile
+`Acc.rec`, `WellFounded.fix` and related operations.
+
+For example:
+
+Before:
+```
+prelude
+import Init.WF
+
```
Comment (Rob23oba) [inline src/Init/WFComputable.lean]:
```suggestion
```
The `prelude` import feels unnecessary

File: src/Init/WFComputable.lean [hunk 8]
```diff
@@ -0,0 +1,117 @@
...
+      IH m h + 1
+    else
+      0
+```
+
+After:
+```
+prelude
+import Init.WFC
+
```
Comment (Rob23oba) [inline src/Init/WFComputable.lean]:
```suggestion
```
Same idea

File: src/Init/WFComputable.lean [hunk 9]
```diff
@@ -0,0 +1,117 @@
...
+def log2p1 : Nat → Nat :=
+  WellFounded.fix Nat.lt_wfRel.2 fun n IH =>
+    let m := n / 2
+    if h : m < n then
+      IH m h + 1
+    else
+      0
+
+#eval log2p1 4   -- 3
```
Comment (Rob23oba) [inline src/Init/WFComputable.lean]:
````suggestion
#eval log2p1 4   -- 3
```
````

**Review by Rob23oba — CHANGES_REQUESTED** [review]

File: src/Init/WFComputable.lean (hunk 7 above)
Comment (joehendrix) [reply src/Init/WFComputable.lean]: Thanks for the suggestions.  I got an error from Github just applying the suggestions, so I pushed a new commit that simplifies the documentation.
